US08389767B2
3-nitro-benzoyl chloride was reacted with an aniline, that is 2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenylamine, to form a 3-nitro-benzamide, that is 3-nitro-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide, and c) the 3-nitro-benzamide, that is 3-nitro-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide, was reduced to afford the desired 3-amino-benzamide, that is 3-amino-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide. Further 3-amino-benzamides were made, for example, by using a substituted 3-nitro-benzoic acid, such as 2-fluoro-3-nitro-benzoic acid, in step a) and/or a different aniline, such as 2-ethyl-6-methyl-4-(1,2,2,2-tetrafluoro-1-trifluoro-methyl-ethyl)-phenylamine, in step b). Whilst this three step synthesis gives satisfactory results in the laboratory a shorter route to 3-amino-benzamides is required if the carbamate insecticides or bisamide insecticides are to be manufactured on a commercial scale.

reactant | 3-nitro-benzoyl chloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenylamine | CC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C)N | C11H10F7N
product | 3-nitro-benzamide | [N+](=O)([O-])C=1C=C(C(=O)N)C=CC1 | C7H6N2O3
